### PR TITLE
Fujisaki : Units_cocompact

### PR DESCRIPTION
**Pull request by WilliamCoram**
We prove the sorry in `NumberField.FiniteAdeleRing.DivisionAlgebra.units_cocompact`.

### CODE REVIEW

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 1]
```diff
@@ -348,10 +366,249 @@ open scoped TensorProduct.RightActions
...
+local instance : MeasurableSpace (Dinf K D) :=
+  borel (Dinf K D)
+
+local instance : BorelSpace (Dinf K D) := {measurable_eq := rfl }
+
+local instance : MeasurableSpace (Df K D) := borel (Df K D)
+
+local instance : BorelSpace (Df K D) := { measurable_eq := rfl }
+
+local instance : MeasurableSpace (Dinf K D × Df K D) := borel (Dinf K D × Df K D)
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This creates a diamond; if X and Y have measurable space structures then X x Y gets one from something like `Prod.instMeasurableSpace`, so you can't have this instance. It should be there anyway, and it will also satisfy BorelSpace automatically as long as you've proved the factors are second countable.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 2]
```diff
@@ -323,19 +323,37 @@ section FiniteAdeleRing
...
+
 -- Instance to help speed up instance synthesis
-instance : NonUnitalNonAssocRing (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
+instance : NonUnitalNonAssocRing (Df K D) :=
   let r := Algebra.TensorProduct.instRing.toNonUnitalRing
   r.toNonUnitalNonAssocRing
 
 -- Instance to help speed up instance synthesis
-instance : NonAssocSemiring (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
+instance : NonAssocSemiring (Dinf K D) :=
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: Is this really needed? I made FiniteAdeleRing irreducible in mathlib and in this repo to solve problems like this. Are you up to date with `main` in this branch and if not then maybe try merging `main` and seeing if it solves your problems? I am quite averse to merging hacks and a bunch of things here feel like hacks.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 3]
```diff
@@ -348,10 +366,249 @@ open scoped TensorProduct.RightActions
...
 
+/-- Notation for (Algebra.TensorProduct.prodRight K K D (NumberField.InfiniteAdeleRing K)
+    (FiniteAdeleRing (𝓞 K) K)). -/
+abbrev D𝔸_prodRight : D_𝔸 ≃ₐ[K] Dinf K D × Df K D :=
+  (Algebra.TensorProduct.prodRight K K D (NumberField.InfiniteAdeleRing K)
+    (FiniteAdeleRing (𝓞 K) K))
+
+local instance : Module (AdeleRing (𝓞 K) K)
+    (D ⊗[K] (InfiniteAdeleRing K × FiniteAdeleRing (𝓞 K) K)) :=
+  TensorProduct.RightActions.instModule_fLT K (InfiniteAdeleRing K × FiniteAdeleRing (𝓞 K) K) D
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: AdeleRing (𝓞 K) K is *defined* to be (D ⊗[K] (InfiniteAdeleRing K × FiniteAdeleRing (𝓞 K) K)). Are you sure you need to break apart this definition? The whole point of defining `AdeleRing` is so that you never have to deal with `InfiniteAdeleRing K × FiniteAdeleRing (𝓞 K) K`.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 4]
```diff
@@ -348,10 +366,249 @@ open scoped TensorProduct.RightActions
...
+
+/-- The restriction of ringHaarChar_ker D_𝔸 to (D ⊗ 𝔸_K^∞)ˣ via D𝔸_iso_prod_units. -/
+abbrev rest₁ : ringHaarChar_ker D_𝔸 → Dfx K D :=
+  fun a => (D𝔸_prodRight_units K D) a.val |>.2
+
+omit [Algebra.IsCentral K D] in
+lemma rest₁_continuous : Continuous (rest₁ K D) := Continuous.comp continuous_snd (Continuous.comp
+  (D𝔸_prodRight_units_cont K D) continuous_subtype_val)
+
+local instance : Algebra ℝ (Dinf K D) := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This needs to be filled in as it's data, so filling it in might break proofs.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 2 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I am up to date (as of this morning) on main - all the instance's included are because at some point when writing a statement Lean was complaining they could not find an instance for it - if you delete any one you will see where it breaks.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 4 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I remember not being able to find anything - but perhaps I did not look hard enough. I will ask around on Zulip to see if this exists.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 3 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Although I mentioned earlier that all instances were required - apparently this can be removed. I still need the instance below though so that we can get the module structure on the product, perhaps I could format it in one instance by using .1 and .2 of elements of AdeleRing?

Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I have adjusted the module instance to remove all `InfiniteAdeleRing K × FiniteAdeleRing (𝓞 K) K` appearances.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 5]
```diff
@@ -392,10 +411,306 @@ open scoped TensorProduct.RightActions
...
+/-- Dinf K D has the ℝ-module topology. -/
+local instance : IsModuleTopology ℝ (Dinf K D) := by
+  /- By Algebra ℝ (InfiniteAdeleRing K); (InfiniteAdeleRing K) has the ℝ-module topology.
+    Now since (Dinf K D) has the (InfiniteAdeleRing K)-module topolology it also has the
+    ℝ-module topology.
+  -/
+  have : IsModuleTopology ℝ (InfiniteAdeleRing K) := by
+    sorry
+  --have : IsModuleTopology (InfiniteAdeleRing K) (Dfx K D) := by
+  -- this is not being found
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This doesn't even make sense because `Dfx K D` isn't a module for `InfiniteAdeleRing K` (it's not even an additive group)

Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: This should read Dinf K D - thats a typo on my end. You're right that this obviously doesnt make sense as written

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 2 above)
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean]: Now fixed after locally removing bad instance

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 4 above)
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean]: We have this in the PR now.
